US07566739B2
5c) 1,3-DIFLUORO-5-METHOXY-2-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)BENZENE
To a cyclohexane (100 ml) solution of 2-(1-chloro-2,2,2-trifluoro-1-methylethyl)-1,3-difluoro-5-methoxybenzene (8.84 9, 32.2 mmol) was added 1.0 M hexane solution of trimethylaluminum (129 ml, 129 mmol) at room temperature and the mixture was stirred under reflux condition for 4 hours. Then, the reaction was quenched with 2 N-hydrochloride aqueous solution and the product was extracted with hexane which was dried over sodium sulfate, filtration and evaporation to furnish 7.9 g (97% yield) of the title compound as a colorless oil.

reactant | cyclohexane | 100 ml | C1CCCCC1 | C6H12
reactant | 2-(1-chloro-2,2,2-trifluoro-1-methylethyl)-1,3-difluoro-5-methoxybenzene | 32.2 mmol | ClC(C(F)(F)F)(C)C1=C(C=C(C=C1F)OC)F | C10H8ClF5O
reactant | trimethylaluminum | 129 mmol, 129 ml | C[Al](C)C
solvent | hexane | 1.0 M | CCCCCC | C6H14
product | 1,3-DIFLUORO-5-METHOXY-2-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)BENZENE | 7.9 g, 97% yield | FC1=C(C(=CC(=C1)OC)F)C(C(F)(F)F)(C)C | C11H11F5O
